US06699871B2
(3R)-3-[(1,1-Dimethylethoxycarbonyl)amino]-4-(4-bromo-2,5-difluorophenyl)-butanoic Acid
To a solution of 1.61 g (4.14 mmol) of (2S, 5R)-2,5-dihydro-3,6-dimethoxy-2-isopropyl-5-(4′-bromo-2′,5′-difluorobenzyl)pyrazine in 10 mL of acetonitrile was added 10 mL of 2N hydrochloric acid. The reaction was stirred for 16 h and concentrated in vacuo. The residue was dissolved in 30 mL of dichloromethane and 5.6 mL (40 mmol) of triethylamine and 2.2 g (10 mmol) of di-tert-butyldicarbonate were added. The reaction was stirred for 16 h, diluted with ethyl acetate and washed sequentially with saturated aqueous sodium bicarbonate solution and brine. The organic phase was dried over magnesium sulfate, concentrated in vacuo and purified by flash chromatography (silica gel, 9:1 hexanes:ethyl acetate) to afford 1.22 g of the title compound. 1H NMR (400 MHz, CDCl3) δ 7.27-7.15 (m, 1H), 6.98-6.93 (m, 1H), 5.08 (bs, 1H), 4.61-4.55 (m, 1H), 3.78 (s, 3H), 3.23-3.18 (m, 1H), 3.05-2.95 (m, 1H), 1.41 (s, 9H).

reactant | (2S, 5R)-2,5-dihydro-3,6-dimethoxy-2-isopropyl-5-(4′-bromo-2′,5′-difluorobenzyl)pyrazine | 4.14 mmol, 1.61 g | COC=1[C@@H](N=C([C@H](N1)CC1=C(C=C(C(=C1)F)Br)F)OC)C(C)C | C16H19BrF2N2O2
reactant | hydrochloric acid | 2N, 10 mL | Cl | ClH
reactant | triethylamine | 40 mmol, 5.6 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 10 mmol, 2.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (3R)-3-[(1,1-Dimethylethoxycarbonyl)amino]-4-(4-bromo-2,5-difluorophenyl)-butanoic Acid | 1.22 g | CC(C)(OC(=O)N[C@@H](CC(=O)O)CC1=C(C=C(C(=C1)F)Br)F)C | C15H18BrF2NO4
